US04997847
(i) Ethyl 2,2-Dimethyl-10-bromodecanoate
Using the method described in Example 5(i), 1,8-dibromooctane (27.2 g, 0.1 mol) and ethylisobutyrate (10.44 g, 0.09 mol) were reacted in the presence of lithium diisopropylamide (67 ml, 0.1 mol) and hexamethylphosphoramide (22 g) to give the title compound (4.56 g) as an oil.

reactant | 1,8-dibromooctane | 0.1 mol, 27.2 g | BrCCCCCCCCBr | C8H16Br2
reactant | ethylisobutyrate | 0.09 mol, 10.44 g | C(C)OC(C(C)C)=O | C6H12O2
reactant | lithium diisopropylamide | 0.1 mol, 67 ml | C(C)(C)[N-]C(C)C.[Li+]
solvent | hexamethylphosphoramide | 22 g | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
product | Ethyl 2,2-Dimethyl-10-bromodecanoate | 4.56 g | CC(C(=O)OCC)(CCCCCCCCBr)C | C14H27BrO2
